US05604237
(i) 2-[(2-Carboxyphenyl)amino]-5-(methylthio)benzoic acid
A mixture of 2-chloro-5-(methylthio)benzoic acid (10 g), anthranilic acid (7 g), potassium carbonate (14 g) and copper (1 g) in 2-(2-methoxyethoxy)ethanol (100 ml) was heated at 180° for 24 h. Water (400 ml) was then added, and the catalyst was filtered off. The filtrate was acidified with dilute hydrochloric acid. The resulting precipitate was filtered off, washed with water, dried, and crystallised from methanol to give the title compound (4.5 g) as crystals. IR includes peaks at 3300 cm-1 (NH) and 1700 cm-1 (CO2H).

reactant | 2-chloro-5-(methylthio)benzoic acid | 10 g | ClC1=C(C(=O)O)C=C(C=C1)SC | C8H7ClO2S
reactant | anthranilic acid | 7 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 400 ml | O | H2O
solvent | 2-(2-methoxyethoxy)ethanol | 100 ml | COCCOCCO | C5H12O3
catalyst | copper | 1 g | [Cu] | Cu
product | 2-[(2-Carboxyphenyl)amino]-5-(methylthio)benzoic acid | 4.5 g | C(=O)(O)C1=C(C=CC=C1)NC1=C(C(=O)O)C=C(C=C1)SC | C15H13NO4S
